US07226951B2
Cyclopropyl-(3-iodo-benzyl)-amine (Intermediate 88)
A solution of 3-iodobenzyl bromide (Aldrich, 3.2 g, 10.77 mmol) in ethanol (20 mL) was treated with cyclopropyl amine (7 mL, 101.5 mmol) and the resulting reaction mixture was stirred over 3 days at ambient temperature. The volatiles were evaporated in vacuo, the residue was diluted with ethyl acetate and washed with saturated, aqueous sodium bicarbonate solution, water and brine, dried over anhydrous sodium sulfate, filtered and evaporated in vacuo to an oil that was subjected to flash column chromatography over silica gel (230–400 mesh) using 10–20% ethyl acetate in hexane as the eluent afford the title product (2.4 g, 81%).

reactant | 3-iodobenzyl bromide | 10.77 mmol, 3.2 g | IC=1C=C(CBr)C=CC1 | C7H6BrI
reactant | cyclopropyl amine | 101.5 mmol, 7 mL | C1(CC1)N | C3H7N
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | Cyclopropyl-(3-iodo-benzyl)-amine | 2.4 g, 81% | C1(CC1)NCC1=CC(=CC=C1)I | C10H12IN
